US05439910
A solution of 2-chloro-4-ethoxypyrimidine (6.34 g), (1-ethoxyvinyl)-tri-n-butyltin (14.4 g) and bis(triphenylphosphine)palladium(II) chloride (1 g) in DMF (60 ml) was heated at 90° C. for 60 hours. The reaction mixture was cooled to room temperature and potassium fluoride (100 ml of a 10% aqueous solution) was added. The resulting mixture was stirred for 1 hour then filtered through Hyflo supercel filter aid which was rinsed through with ether. The filtrate was extracted with ether (×2) and the combined extracts were washed with brine, then dried, concentrated and chromatographed using ethyl acetate:hexane 1:4 as the eluant to give 1-ethoxy-1-(4-ethoxypyrimidin-2-yl)-ethylene (2.7 g, 35% yield) as an orange oil; IR maximum (film): 1550cm-1 ; 1H NMR (270 MHz): δ1.40(3H,t), 1.50(3H,t), 4.02(2H,q), 4.45(2H,q), 4.58(1H,d), 5.65(1H,d), 6.60(1 H,d), 8.48(1H,d) ppm.

reactant | 2-chloro-4-ethoxypyrimidine | 6.34 g | ClC1=NC=CC(=N1)OCC | C6H7ClN2O
reactant | (1-ethoxyvinyl)-tri-n-butyltin | 14.4 g | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-ethoxy-1-(4-ethoxypyrimidin-2-yl)-ethylene | 2.7 g, 35% yield | C(C)OC(=C)C1=NC=CC(=N1)OCC | C10H14N2O2
